Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
environmental
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with H/O hypertension presenting with intermittent 
substernal chest pressure and shortness of breath, acutely 
worsening over for about a week now, subacutely over several 
months. Pain occurs most prominently with exertion; however, it 
does occur at rest. She reports orthopnea symptoms over past 
week (sleeping on ___ pillows) and paroxysmal nocturnal dyspnea. 
Her chest pain is sharp, mid-sternal and sometimes radiates up 
both sides of her chest.  Occasionally it is accompanied by 
right chin numbness and also left leg numbness. She denies 
fevers, chills or cough. It is unclear if this could be due to 
acid-reflux (her symptoms improved with GI cocktail in ED). She 
is going through menopause, so often has palpitations and 
diaphoresis. She denies nausea or vomiting. Patient saw her 
primary care physician today who sent the patient for further 
evaluation of her symptoms.
 
In the ED, initial vitals were: Pain 0 T 98.6 HR 78 BP 144/84 RR 
16 SaO2 100% on 3 Lpm. EKG: NSR, normal axis and normal 
intervals, no acute ST T changes. Labs notable for TnT <0.01 x2, 
NT-ProBNP 55. CXR showed no acute cardiopulmonary process.

Patient had one episode of chest pain overnight in ED. EKG was 
unchanged, and she received a dose of the GI cocktail. Exercise 
stress showed no ischemic EKG changes. Chest pain did progress 
with exercise, interpretation was symptoms atypical for angina, 
but still possibly ischemic in origin. She did report difficulty 
taking deep breath. Patient was then admitted to await a nuclear 
imaging stress test after the weekend. Prior to transfer to 
floor, she also received atenolol 50 mg and baby aspirin.

On arrival to the floor, patient states she is still having 
chest discomfort, ___ with no radiation or associated 
symptoms. She says that otherwise she feels well and is wishing 
to order dinner.
 
Past Medical History:
Hypertension
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.
 
Physical Exam:
On Admission:
General: Middle aged woman in NAD, comfortable, pleasant
VS: T 98.6 HR 63 BP 118/64 RR 18 SaO2 95% on RA
HEENT: NCAT, PERRL, EOMI, MMM
Neck: supple, no JVD
CV: regular rhythm, no murmurs, PMI non-displaced
Lungs: CTAB, faint bibasilar crackles
Abdomen: soft, non-tender, not distended, BS+
Ext: warm and well perfused; no clubbing, cyanosis or edema; 2+ 
distal pulses bilaterally
Neuro: moving all extremities grossly 

At discharge:
General: in NAD, comfortable, pleasant
VS: T 99 HR 60 BP 111/55 RR 18 SaO2 98% on RA
CV: regular rhythm, no murmurs, PMI non-displaced
Lungs: CTAB
Ext: warm and well perfused; no clubbing, cyanosis or edema; 2+ 
distal pulses bilaterally
Neuro: moving all extremities grossly
 
Pertinent Results:
ADMISSION LABS:
___ 05:10PM   WBC-8.2 RBC-4.08* HGB-13.5 HCT-40.4 MCV-99* 
MCH-33.0* MCHC-33.4 RDW-12.9
___ 05:10PM   NEUTS-68.1 ___ MONOS-4.9 EOS-1.4 
BASOS-0.8
___ 05:10PM   PLT COUNT-264
___ 05:10PM   GLUCOSE-94 UREA N-11 CREAT-0.6 SODIUM-142 
POTASSIUM-3.8 CHLORIDE-105 TOTAL CO2-30 ANION GAP-11
___ 05:10PM   ALBUMIN-4.7 CALCIUM-10.4* PHOSPHATE-4.5 
MAGNESIUM-1.9
___ 05:10PM   D-DIMER-219 proBNP-55
___ 05:10PM   cTropnT-<0.01
___ 11:00PM   cTropnT-<0.01

DISCHARGE LABS:
___ 08:00AM BLOOD WBC-6.8 RBC-4.14* Hgb-13.4 Hct-41.3 
MCV-100* MCH-32.4* MCHC-32.5 RDW-13.2 Plt ___
___ 08:00AM BLOOD Plt ___
___ 08:00AM BLOOD Glucose-104* UreaN-13 Creat-0.7 Na-145 
K-4.1 Cl-105 HCO3-29 AnGap-15

IMAGING:
ECG ___ 3:33:08 ___  
Sinus rhythm. Within normal limits. 

___ Exercise Stress Test 
INTERPRETATION: This ___ y.o. woman with h/o HTN was referred to 
the lab for evaluation of chest pain and dyspnea. The patient 
exercised for 8 minutes of a modified ___ protocol (~ ___ METS), 
representing an average exercise tolerance for her age. The test 
was stopped at the patient's request due to progressive chest 
tightness and dyspnea. The patient presented with ___ central 
chest tightness, improving with deep inspiration. During 
exercise, this discomfort progressed to ___ with radiation to 
the right side. At this time, the patient noted an inability to 
take deep breaths. In recovery, the discomfort improved beyond 
baseline to ___. There were no significant ST segment changes 
throughout the study. The rhythm was sinus with no ectopy 
throughout the study. Blunted blood pressure and heart rate 
responses to exercise in the presence of beta blocker therapy. 
IMPRESSION: Atypical/possible anginal type symptoms in the 
absence of ischemic EKG changes. Blunted hemodynamic response to 
exercise in the presence of beta blocker therapy. 

___ Nuclear Exercise Stress Test
INTERPRETATION: This ___ year old woman with a history of HTN was 
referred to the lab for evaluation of chest discomfort. The 
patient exercised for 8.6 minutes of a modified ___ protocol 
and stopped for fatigue. The estimated peak MET capacity was 6.6 
which represents an average functional capacity for her age. No 
arm, neck, back or chest discomfort was reported by the patient 
throughout the study. There were no significant ST segment 
changes during exercise or in recovery. The rhythm was sinus 
with several isolated apbs. Appropriate hemodynamic response to 
exercise and recovery. 
IMPRESSION: No anginal type symptoms or ischemic EKG changes.
Nuclear Imaging:  
  Left ventricular cavity size is normal. 
  Resting and stress perfusion images reveal uniform tracer 
uptake throughout the left ventricular myocardium.
  Gated images reveal normal wall motion. The calculated left 
ventricular ejection fraction is 73%. 
  Compared with the study of ___, there has been no 
significant changes. 
IMPRESSION: 
At the level of exercise intensity achieved, normal myocardial 
perfusion. Normal wall motion with left ventricular ejection 
fraction of 73%.
 
Brief Hospital Course:
___ with history of hypertension presenting with intermittent 
substernal chest pressure and shortness of breath for one week.
 
# Chest pain: Patient presented with symptoms including jaw 
numbness, as well as dyspnea on exertion and orthopnea. EKG did 
not show ischemic changes and cardiac biomarkers were negative. 
However, initial exercise stress test produced atypical/possible 
anginal type symptoms without ischemic EKG changes. 
Subsequently, patient underwent nuclear stress that did not 
produce any symptoms and showed normal myocardial perfusion 
(i.e., no objective evidence of ischemia). Patient was 
discharged home on aspirin 81 mg and atorvastatin 20 mg daily 
and will complete a 2-week trial of PPI treatment for acid 
reflux.

# Hypertension: Well-controlled during this admission. Patient 
was continued on her home dose atenolol. Hydrochlorothiazide was 
held as patient appeared euvolemic during her admission. The 
need to restart diuresis can be determined at outpatient PCP 
___.

TRANSITIONAL ISSUES:
====================
# Patient is very concerned about her family history of 
autoimmune hepatitis and initiation of lipids. Patient advised 
to ___ with PCP to assess liver function as needed after 
discharge.

# Please ___ resolution of acid reflux symptoms after PPI 
course.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Benzonatate 200 mg PO BID:PRN cough 
2. Atenolol 100 mg PO DAILY 
3. Ibuprofen 600 mg PO Q8H:PRN pain 
4. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral TID 
5. Aspirin 81 mg PO DAILY 
6. Cetirizine 10 mg oral daily 
7. Hydrochlorothiazide 12.5 mg PO ___
 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atenolol 100 mg PO DAILY 
3. Cetirizine 10 mg oral daily 
4. Atorvastatin 20 mg PO DAILY 
RX *atorvastatin 20 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
5. Omeprazole 40 mg PO BID 
RX *omeprazole 40 mg 1 capsule,delayed ___ by 
mouth twice a day Disp #*28 Capsule Refills:*0
6. Benzonatate 200 mg PO BID:PRN cough 
7. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral TID 
8. Ibuprofen 600 mg PO Q8H:PRN pain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: chest pain
Secondary diagnosis: hypertension
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure caring for you while you were admitted to the 
hospital. You were admitted because you were having chest pain.  
You had a stress test in the emergency room which reproduced 
your symptoms of chest pain. Therefore, you were admitted for 
additional testing.  Your electrocardiograms and blood tests 
were reassuring. Your stress test with imaging was also 
reassuring. 

Please take your medications as prescribed and follow up with 
your doctors as ___. 
 
Followup Instructions:
___